data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1ccccc1Br)C1C2CCC1C2", "products": "[O][C](c1ccccc1Br)C1C2CCC1C2"}, {"reactants": "[O][C](c1ccccc1Br)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1ccccc1Br"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1ccccc1Br", "products": "OC(=CC1C=CCC1)c1ccccc1Br"}, {"reactants": "OC(=CC1C=CCC1)c1ccccc1Br", "products": "O=C(CC1C=CCC1)c1ccccc1Br"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cccc(OC)c1C(=O)C1C2CCC1C2", "products": "COc1cccc(OC)c1[C]([O])C1C2CCC1C2"}, {"reactants": "COc1cccc(OC)c1[C]([O])C1C2CCC1C2", "products": "COc1cccc(OC)c1C([O])=CC1C[CH]CC1"}, {"reactants": "COc1cccc(OC)c1C([O])=CC1C[CH]CC1", "products": "COc1cccc(OC)c1C(O)=CC1C=CCC1"}, {"reactants": "COc1cccc(OC)c1C(O)=CC1C=CCC1", "products": "COc1cccc(OC)c1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(N(C)C(=O)C2=CCCC2)c(Br)cc1C.[Pd]", "products": "COc1cc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])cc1C"}, {"reactants": "COc1cc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])cc1C", "products": "COc1cc2c(cc1C)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1cc2c(cc1C)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1cc2c(cc1C)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)CCC)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CCC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CCC)cc1=C", "products": "CCC[Si](C)(C)c1cc2c(cc1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1", "products": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1"}, {"reactants": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)cc1", "products": "Cc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(C)C(C)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(C)C(C)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(C)C(C)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(C)C(C)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(C)C(C)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(C)C(C)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1ccc(F)cc1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1ccc(F)c[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1ccc(F)c[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2ccc(F)cc21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2ccc(F)cc21", "products": "CN1C(=O)C2(C=CCC2)c2ccc(F)cc21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(OC)C1C.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(OC)C1C.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(OC)C1C", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(OC)C2C.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(OC)C2C", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CC(OC)C2C)C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c(Cl)c([Si](C)(C)C)c([Si](C)(C)C)c(F)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)C)c(F)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)C)c(F)c1=C", "products": "C[C@]12CC[C@@H]3c4c(Cl)c([Si](C)(C)C)c([Si](C)(C)C)c(F)c4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1cccc(F)c1", "products": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1cccc(F)c1"}, {"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1cccc(F)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1cccc(F)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1cccc(F)c1", "products": "COC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1cccc(F)c1"}]}
